US05608062
5-Bromo-2-trifluoroacetylthiophene
2.93 g (0.011 mol) of 2,2,2-trifluoro-1-(5-bromo-2-thienyl)ethanol and 0.19 g (0.0006 mol) of tetrabutylammonium hydrogen sulfate are dissolved in 100 ml of methylene chloride at room temperature. 6.9 ml (0.014 mol) of an approximately 12% strength sodium hyochlorite solution are metered in within 5 minutes with vigorous stirring and the mixture is stirred for a further 4 hours at room temperature. The reaction mixture is added to 100 ml of water, the phases are separated, the aqueous phase is extracted several times with methylene chloride and the combined organic phases are washed with saturated aqueous sodium chloride solution. After drying the organic phase with sodium sulfate, the volatiles are distilled off. Following distillation of the crude product in a kugelrohr (0.3 mbar, 40°-60° C. bath temperature), 0.48 g (39% of theory) of 5-bromo-2-trifluoroacetylthiophene. nD20 : 1.5309.

reactant | 2,2,2-trifluoro-1-(5-bromo-2-thienyl)ethanol | 0.011 mol, 2.93 g | FC(C(O)C=1SC(=CC1)Br)(F)F | C6H4BrF3OS
reactant | sodium | [Na] | Na
reactant | water | 100 ml | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 0.0006 mol, 0.19 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromo-2-trifluoroacetylthiophene | BrC1=CC=C(S1)C(C(F)(F)F)=O | C6H2BrF3OS
